US05273999
Using the procedure of example 4, 5-chloro-2-[5-[3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]benzenepropanoic acid methyl ester, a pale-yellow oil, was prepared in quantitative yield starting from 0.62 g (3 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one and 1.21 g (3.33 mmol) of 2-[(5-bromopentyl)oxy]-5-chlorobenzenepropanoic acid methyl ester. Saponification using the procedure of example 4 afforded 1.01 g (71%) of 5-chloro-2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]benzenepropanoic acid as a colorless solid, mp 101°-103° C.

reactant | benzenepropanoic acid methyl ester | COC(CCC1=CC=CC=C1)=O | C10H12O2
reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 3 mmol, 0.62 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 2-[(5-bromopentyl)oxy]-5-chlorobenzenepropanoic acid methyl ester | 3.33 mmol, 1.21 g | COC(CCC1=C(C=CC(=C1)Cl)OCCCCCBr)=O | C15H20BrClO3
product | 5-chloro-2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]benzenepropanoic acid | 1.01 g, 71% | ClC=1C=CC(=C(C1)CCC(=O)O)OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C26H31ClO6
